US03987199
B. 4-acetylamino-3-nitrobenzenesulfonamide
13.1 G. of 4-Acetylamino-3-nitrobenzenesulfonylchloride is suspended in 130 ml. of concentrated ammonium hydroxide and stirred at room temperature for 11/2 hours. The reaction mixture is concentrated to 1/3 of the original volume by boiling, cooling and filtering. The solid material is recrystallized from 70% ethanol/water affording 7.5 g. of 4-acetylamino-3-nitrobenzenesulfonamide, m.p. 182°-183° C.

reactant | 4-Acetylamino-3-nitrobenzenesulfonylchloride | C(C)(=O)NC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C8H7ClN2O5S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 4-acetylamino-3-nitrobenzenesulfonamide | C(C)(=O)NC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C8H9N3O5S
